US20010027196A1
To a stirred solution of 670 mg (2,42 mmol) 5-(1-ethoxy-vinyl)-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine in 18 ml THF was added 2.00 ml (2.00 mmol) 1M hydrochloric acid and stirring continued for 43 hours at room temperature. The reaction mixture was partitioned between ethyl acetate and sodium bicarbonate solution and the layers separated. The organic phase was washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was triturated in ethyl acetate/ether to afford 200 mg (33%) 1-(2-amino-4-furan-2-yl-6-methylsulfanyl-pyrimidin-5-yl)-ethanone as a light brown crystalline solid. EI-MS m/e (%): 249 (M+, 14), 234 (38), 221 (100), 206 (20), 43 (30).

reactant | 5-(1-ethoxy-vinyl)-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine | 2,42 mmol, 670 mg | C(C)OC(=C)C=1C(=NC(=NC1SC)N)C=1OC=CC1 | C13H15N3O2S
reactant | hydrochloric acid | 2.00 mmol, 1M, 2.00 ml | Cl | ClH
solvent | THF | 18 ml | C1CCOC1 | C4H8O
product | 1-(2-amino-4-furan-2-yl-6-methylsulfanyl-pyrimidin-5-yl)-ethanone | 200 mg, 33% | NC1=NC(=C(C(=N1)C=1OC=CC1)C(C)=O)SC | C11H11N3O2S
